US07902252B2
4.12. Synthesis of ethyl 6-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate was reacted with (3,4-difluorophenyl)magnesium bromide according to General Procedure 3. The resulting product was converted to the title compound by hydrogenation according to General Procedure 6.

reactant | ethyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | O=C1CCC2=C1NC(=C2)C(=O)OCC | C10H11NO3
reactant | (3,4-difluorophenyl)magnesium bromide | FC=1C=C(C=CC1F)[Mg]Br
product | ethyl 6-(3,4-difluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC=1C=C(C=CC1F)C1CCC2=C1NC(=C2)C(=O)OCC | C16H15F2NO2
